US07691882B2
3-(5-(4-(Pyridin-2-yloxymethyl)-benzyl)-isoxazol-3-yl)-pyridin-2-ylamine
To a solution of 5-chloro-3-(5-(4-(pyridin-2-yloxymethyl)-benzyl)-isoxazol-3-yl)-pyridin-2-ylamine (37 mg, 94 μmol) described in Manufacturing Example 30-1-3 in N-methyl-2-pyrrolidinone (2 mL) were added formic acid (5.3 μL, 0.14 mmol), N,N-diisopropylethylamine (49 μL, 0.28 mmol) and bis(tri-tert-butylphosphine)palladium (0) (9.6 mg, 19 μmol) at room temperature, which was stirred under nitrogen atmosphere for 1 hour and 25 minutes at 100° C. Water and ethyl acetate were added to the reaction solution at room temperature, which was then filtered through a Celite pad. The filtrate was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid), and then further purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (0.66 mg, 2.0%).

reactant | 5-chloro-3-(5-(4-(pyridin-2-yloxymethyl)-benzyl)-isoxazol-3-yl)-pyridin-2-ylamine | 94 μmol, 37 mg | ClC=1C=C(C(=NC1)N)C1=NOC(=C1)CC1=CC=C(C=C1)COC1=NC=CC=C1 | C21H17ClN4O2
reactant | formic acid | 0.14 mmol, 5.3 μL | C(=O)O | CH2O2
reactant | N,N-diisopropylethylamine | 0.28 mmol, 49 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 19 μmol, 9.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-(4-(Pyridin-2-yloxymethyl)-benzyl)-isoxazol-3-yl)-pyridin-2-ylamine | 0.66 mg, 2.0% | N1=C(C=CC=C1)OCC1=CC=C(CC2=CC(=NO2)C=2C(=NC=CC2)N)C=C1 | C21H18N4O2
